US07709645B2
A solution of 2-ethyl-2H-pyrazole-3-carboxylic, di-iso-propylethylamine, and N,O-dimethylhydroxylamine hydrochloride in N,N-dimethylformamide was stirred at 0° C. (Benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate was added and the reaction mixture was slowly warmed to room temperature. The reaction was stirred for 18 hours. The mixture was concentrated, and 20% 2-propanol in dichloromethane added. The mixture was washed with a saturated aqueous solution of sodium bicarbonate, dried over sodium sulfate, and concentrated. The crude material was purified by flash chromatography to give 2-ethyl-2H-pyrazole-3-carboxylic acid methoxy-methyl-amide. 1H NMR (250 MHz, CDCl3) δ 7.47 (d, J=2 Hz, 1H), 6.71 (d, J=2 Hz, 1H), 4.48 (quart, J=7.3 Hz, 2H), 3.62 (s, 3H), 3.34 (s, 3H), 1.42 (t, J=7.0 Hz, 3H).

reactant | di-iso-propylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,O-dimethylhydroxylamine hydrochloride | Cl.CNOC
reactant | (Benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2-ethyl-2H-pyrazole-3-carboxylic acid methoxy-methyl-amide | CON(C(=O)C=1N(N=CC1)CC)C | C8H13N3O2
